US08633173B2
8-Pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine was prepared from 8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (1.0 g, 4.7 mmol) and 4-pyridylboronic acid (0.81 g, 6.6 mmol) in a manner analogous to Step 2c. The product of the reaction was isolated as a pale yellow solid (0.54 g, 54%). MP=209-215° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 8.69 (dd, J=4.8, 1.4 Hz, 2H), 8.65 (dd, J=6.5, 0.8 Hz, 1H), 8.18 (dd, J=4.7, 1.6 Hz, 2H), 7.94 (dd, J=7.5, 0.9 Hz, 1H), 7.03 (t, J=6.8 Hz, 1H), 6.24 (s, 2H). MS=212 (MH)+.

reactant | 8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 4.7 mmol, 1.0 g | BrC=1C=2N(C=CC1)N=C(N2)N | C6H5BrN4
reactant | 4-pyridylboronic acid | 6.6 mmol, 0.81 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
product | 8-Pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | N1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)N | C11H9N5
